US05106861
Step F: 3-Amino- 3,4-dihydro-2(1H)-phenanthrenone, hydrochloride
3-Amino-1-chloro-1,2,3,4-tetrahydro-2-phenanthrenol (103 mg) in trifluoroacetic acid (10 ml) was refluxed for 3 hours. The green mixture was evaporated and the residue was taken up in methanol and acidified with a solution of hydrochloric acid in diethyl ether. The evaporation residue was treated with charcoal in methanol. Filtration gave a clear solution which was evaporated to yield the crude compound as a solid (99 mg). Recrystallization from ethanol/diethyl ether afforded the title compound (40 mg) as a white solid, m.p. 247° C. (dec.).

reactant | 3-Amino-1-chloro-1,2,3,4-tetrahydro-2-phenanthrenol | 103 mg | NC1C(C(C=2C=CC3=CC=CC=C3C2C1)Cl)O | C14H14ClNO
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Amino- 3,4-dihydro-2(1H)-phenanthrenone, hydrochloride | 40 mg | Cl.NC1C(CC=2C=CC3=CC=CC=C3C2C1)=O | InChI=1S/C14H13NO.ClH/c15-13-8-12-10(7-14(13)16)6-5-9-3-1-2-4-11(9)12;/h1-6,13H,7-8,15H2;1H
